spice
* SPICE Netlist for the circuit
VCC 3 0 DC 2.5
Vx 2 0 DC 0
Ix 3 2 DC 0
R1 4 3 100k
? Missing component
R3 3 2 1k
R4 4 0 500
C1 3 0 1u
C2 4 0 1u
Q1 4 3 4 QMOD
.model QMOD NPN
